US04182758
To a solution of dimethyl cis-1-propenylphosphonate (6.10 g.) in carbon tetrachloride (60 ml.) was added N-bromosuccinimide (7.97 g.). The reaction mixture was heated to reflux for 2 hours and then cooled to ambient temperature to give precipitates, which were filtered off. The filtrates were concentrated under reduced pressure to give an oily residue, which was subjected to a column chromatography on silica gel and eluted with a mixture of chloroform and ethyl acetate (8:2) to give dimethyl 3-bromo trans-1-propenylphosphonic acid (4.94 g.).

reactant | dimethyl cis-1-propenylphosphonate | 6.10 g | C(=C/C)/P(OC)(OC)=O | C5H11O3P
reactant | N-bromosuccinimide | 7.97 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 60 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | dimethyl 3-bromo trans-1-propenylphosphonic acid | 4.94 g | COP(OC)(=O)\C=C\CBr | C5H10BrO3P
